US07011838B2
Using 0.30 g of (4-(trifluoromethoxy)benzyl)malononitrile, 10 ml of N,N-dimethylformamide, 0.06 g of sodium hydride (60% in oil), and 0.38 g of 4-iodo-1,1,1,2,2-pentafluorobutane, and according to the process described in the Production Example 1, there was obtained 0.15 g of 2-(3,3,4,4,4-pentafluorobutyl)-2-(4-(trifluoromethoxy)benzyl)malononitrile (the present compound (10)).

reactant | (4-(trifluoromethoxy)benzyl)malononitrile | 0.30 g | FC(OC1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2O
reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | 4-iodo-1,1,1,2,2-pentafluorobutane | 0.38 g | ICCC(C(F)(F)F)(F)F | C4H4F5I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(3,3,4,4,4-pentafluorobutyl)-2-(4-(trifluoromethoxy)benzyl)malononitrile | 0.15 g, Yield: 28% | FC(CCC(C#N)(C#N)CC1=CC=C(C=C1)OC(F)(F)F)(C(F)(F)F)F | C15H10F8N2O
